US07071175B1
TEA (0.189 mL, 1.35 mmol) was added to a solution of 2-(2-[N,N-bis(tert-butoxycarbonyl)amino]-pyrimidin-5-ylmethyl)-acrylic acid ethyl ester (0.53 g, 1.30 mmol) in thioacetic acid (13 mL) at 0° C. under argon. The mixture was stirred at room temperature for 40 h. EtOAc was added and the solution was washed with Na2CO3 and brine, dried and concentrated under reduced pressure. Flash chromatography (heptane/EtOAc, 5:1→1:1) gave 2-acetylsulfanylmethyl-3-(2-[N,N-bis(tert-butoxycarbonyl)amino]-pyrimidin-5-yl)-propionic acid ethyl ester(0.56 g, 89%).

reactant | 2-(2-[N,N-bis(tert-butoxycarbonyl)amino]-pyrimidin-5-ylmethyl)-acrylic acid ethyl ester | 1.30 mmol, 0.53 g | C(C)OC(C(=C)CC=1C=NC(=NC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C20H29N3O6
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | thioacetic acid | 13 mL | C(C)(=S)O | C2H4OS
product | 2-acetylsulfanylmethyl-3-(2-[N,N-bis(tert-butoxycarbonyl)amino]-pyrimidin-5-yl)-propionic acid ethyl ester | 0.56 g, 89% | C(C)OC(C(CC=1C=NC(=NC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CSC(C)=O)=O | C22H33N3O7S
